US09233933B2
Compound 165 (5.0 g, 11.3 mmol), 2-thiazolecarboxamidine hydrochloride (2.78 g; 17.0 mmol), sodium bicarbonate (3.33 g) in dioxane (100 mL) were stirred overnight at 50° C. The reaction mixture was next stirred 2 hours at 60° C., 2 hours at 70° C. and 4 hours at 80° C., each time adding more thiazolecarboxamidine (500 mg). The mixture was next cooled, filtered and concentrated. The residue was purified by silica gel column chromatography using a gradient from 10 till 100% EtOAc in heptane. The product fractions were collected and concentrated yielding a light yellow sticky oil containing methyl 2,2,3,5-tetrafluoro-6′-oxo-2′-(thiazol-2-yl)-2,3,5′,6′-tetrahydro-1′H-spiro[indene-1,4′-pyrimidine]-5′-carboxylate (2.33 g). This oily residue (2.33 g) was stirred in POCl3 (10 mL) at 120° C. during 5 hours. The reaction mixture was concentrated. The obtained residue was dissolved in CH2Cl2 (100 mL) and poured in saturated NaHCO3 solution (200 mL). This mixture was stirred vigorously during 15 minutes. The organic layer was separated, dried over magnesium sulphate, filtered and concentrated. The obtained residue was purified by silica gel column chromatography using a gradient from 10 till 100% EtOAc in heptanes. The product fractions were concentrated in vacuo yielding methyl 6′-chloro-2,2,3,5-tetrafluoro-2′-(thiazol-2-yl)-2,3-dihydro-1′H-spiro[indene-1,4′-pyrimidine]-5′-carboxylate as a yellow powder. (799 mg). Method L; Rt: 1.89 and 1.99 (4/6 ratio) m/z; 431.9 (M+H)+ Exact mass: 431.0. Nitrogen was bubbled through a solution of methyl 6′-chloro-2,2,3,5-tetrafluoro-2′-(thiazol-2-yl)-2,3-dihydro-1′H-spiro[indene-1,4′-pyrimidine]-5′-carboxylate (799 mg) in DMF (7 mL). Then tetramethyltin (331 mg, 1.85 mmol) and bis(tri-tert-butylphosphine)palladium (0) (95 mg, 0.185 mmol) were added and the reaction mixture heated in a Biotage microwave at 140° C. during 1 hour. The mixture was filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography using a gradient from 10 till 100% EtOAc in heptane. The product fractions were concentrated and dried in vacuo yielding methyl 2,2,3,5-tetrafluoro-6′-methyl-2′-(thiazol-2-yl)-2,3-dihydro-1′H-spiro[indene-1,4′-pyrimidine]-5′-carboxylate as a light yellow resin (577 mg). Method L; Rt: 1.91 m/z; 412.3 (M+H)+ Exact mass: 411.1. Nitrogen was bubbled through methyl 2,2,3,5-tetrafluoro-6′-methyl-2′-(thiazol-2-yl)-2,3-dihydro-1′H-spiro[indene-1,4′-pyrimidine]-5′-carboxylate (565 mg) dissolved in dry THF (50 mL) during 10 minutes. potassium bis(trimethylsilyl)amide (11 mL; 0.5 M toluene, 5.5 mmol) was added and the reaction mixture stirred under a nitrogen flow during 30 minutes. The mixture was quenched with water (10 mL) and partially concentrated. The remainder was extracted with CH2Cl2 (50 mL) and water (30 mL). The organic layer was dried over magnesium sulphate, filtered and concentrated. The residue was purified by column chromatography on silica using a gradient from 10 till 100% EtOAc in heptane. The product fractions were combined, concentrated, and the obtained residue dried in vacuo at 50° C., resulting in compound 166 a as a yellow powder (272 mg). Method L; Rt: 2.10 m/z; 392.3 (M+H)+ Exact mass: 391.1. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.44 (s, 3H), 3.40 (s, 3H), 6.86 (ddd, J=10.0, 8.0, 2.5 Hz, 1H), 7.00 (dd, J=8.0, 2.5 Hz, 1H), 7.15 (ddd, J=8.0, 5.0, 2.5 Hz, 1H), 7.48 (d, J=3.0 Hz, 1H), 7.85 (d, J=3.0 Hz, 1H), 8.01 (br. s., 1H). The racemic mixture 166 was separated in enantiomers by Prep SFC (Stationary phase:Chiralcel Diacel OD 20×250 mm), Mobile phase: CO2, Isopropanol), the desired fractions were collected, evaporated, dissolved in MeOH and evaporated again resulting in compound 166a (103 mg) and compound 166b (96 mg) as yellow oils. Column: OD-H 250 mm×4.6 mm; Flow: 3 mL/min; Mobile phase: 5% iPrOH (containing 0.2% iPrNH2) hold 15.00 min; Temperature: 30° C.; Compound 166a Rt (9.9 min) Compound 166b Rt (11.0 min).

reactant | 2-thiazolecarboxamidine hydrochloride | 17.0 mmol, 2.78 g | Cl.S1C(=NC=C1)C(=N)N
reactant | sodium bicarbonate | 3.33 g | C([O-])(O)=O.[Na+]
reactant | thiazolecarboxamidine | 500 mg | S1C(=NC=C1)C(=N)N | C4H5N3S
reactant | methyl 2,2,3,5-tetrafluoro-6′-oxo-2′-(thiazol-2-yl)-2,3,5′,6′-tetrahydro-1′H-spiro[indene-1,4′-pyrimidine]-5′-carboxylate | 2.33 g | FC1(C(C2=CC(=CC=C2C12N=C(NC(C2C(=O)OC)=O)C=2SC=CN2)F)F)F | C17H11F4N3O3S
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | POCl3 | 10 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | methyl 6′-chloro-2,2,3,5-tetrafluoro-2′-(thiazol-2-yl)-2,3-dihydro-1′H-spiro[indene-1,4′-pyrimidine]-5′-carboxylate | ClC1=C(C2(N=C(N1)C=1SC=CN1)C(C(C1=CC(=CC=C12)F)F)(F)F)C(=O)OC | C17H10ClF4N3O2S
